US06987122B2
A solution of 2-(1-(4-fluorobenzyl)-1H-indol-3-yl)-2-oxo-acetyl chloride (318 mg) in dry 1,2-dimethoxyethane (5 ml) is added dropwise to a suspension of 2-amino-1,3,4-thiadiazole (91 mg) and dry, ground K2CO3 (138 mg) in 5 ml of 1,2-dimethoxyethane, operating at room temperature. The reaction mixture is left under stirring for 12 hours then poured into water (60 ml). The resulting suspension is stirred for 30 minutes. The precipitate is filtered off and suspended in methanol (10 ml) under stirring for 30 minutes. The solid is recovered by filtration and dried to give N-(1,3,4-thiadiazol-2-yl)-2-(1-(4-fluorobenzyl)-1H-indol-3-yl)-2-oxo-acetamide (168 mg).

reactant | 2-(1-(4-fluorobenzyl)-1H-indol-3-yl)-2-oxo-acetyl chloride | 318 mg | FC1=CC=C(CN2C=C(C3=CC=CC=C23)C(C(=O)Cl)=O)C=C1 | C17H11ClFNO2
reactant | 2-amino-1,3,4-thiadiazole | 91 mg | NC=1SC=NN1 | C2H3N3S
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | N-(1,3,4-thiadiazol-2-yl)-2-(1-(4-fluorobenzyl)-1H-indol-3-yl)-2-oxo-acetamide | 168 mg | S1C(=NN=C1)NC(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)F)=O | C19H13FN4O2S
